US04433152
A mixture of 1.5 g of 1-amidino-4-piperidinecarboxylic acid hydrochloride and 7.7 g of bis-(p-methoxyphenyl)sulfite was stirred at room temperature for 18 hours in a solution of 16 ml of dry dimethylformamide and 8 ml of dry pyridine. The solvent was removed under reduced pressure, and ether was added to the residue to give crystals. The crystals were washed with ether twice and then with ethyl acetate and recrystallized from methanol-ether to obtain 1.9 g (yield: 83.7%) of p-methoxyphenyl 1-amidino-4-piperidinecarboxylate hydrochloride as colorless crystals having a melting point of 198° to 203° C.

reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 1.5 g | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
reactant | bis-(p-methoxyphenyl)sulfite | 7.7 g | COC1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)OC | C14H14O5S
reactant | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | p-methoxyphenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 1.9 g, yield: 83.7% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=CC=C(C=C1)OC | InChI=1S/C14H19N3O3.ClH/c1-19-11-2-4-12(5-3-11)20-13(18)10-6-8-17(9-7-10)14(15)16;/h2-5,10H,6-9H2,1H3,(H3,15,16);1H
